US05684034
5-Hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide (550 mg, 1.8 mmol), 550 mg (4 mmol) of K2CO3 and 0.2 mL of methyl acrylate in 40 mL of acetone was heated to maintain reflux for 100 hours (additional methyl acrylate was added at various times). After cooling, the mixture was diluted with water, extracted with EtOAc, the EtOAc solution washed with saturated NaCl solution and dried (Na2 SO4). After concentrating, the residue was chromatographed on silica (eluted with CH2Cl2 →1% MeOH/CH2Cl2) and crystallized from CH2Cl2 /ether to give 375 mg (55% yield) of 3-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]-propanic acid methyl ester, mp, 113°-115° C.

reactant | 5-Hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 1.8 mmol, 550 mg | OC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC(=O)N | C18H18N2O2
reactant | K2CO3 | 4 mmol, 550 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl acrylate | 0.2 mL | C(C=C)(=O)OC | C4H6O2
solvent | acetone | 40 mL | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 3-[[3-(2-amino-2-oxoethyl)-2-methyl-1-(phenylmethyl)-1H-indol-5-yl]oxy]-propanic acid methyl ester | 375 mg, 55% yield | COC(CCOC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC(=O)N)=O | C22H24N2O4
